US07723332B2
According to general procedure A, 4-Bromo-3-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and ammonia (20 mL, ca. 7N in methanol) were stirred together for 16 hours. 4-bromo-3-fluorobenzenesulfonamide was provided after purification (0.23 g, 61%). HRMS: calcd for C6H5BrFNO2S, 252.92084; found (EI, M+), 252.9201. HPLC purity 100.0% at 210-370 nm, 7.5 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-3-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | ammonia | ca. 7N, 20 mL | N | H3N
product | 4-bromo-3-fluorobenzenesulfonamide | BrC1=C(C=C(C=C1)S(=O)(=O)N)F | C6H5BrFNO2S
